US06521666B1
To anhydrous K2CO3 (3.55 g) in acetone (10 mL) under N2 was added 2,4-dimethoxyphenol (3.3 g, J.O.C. 1984, 49, 4740) in acetone (20 mL). Chloromethyl methyl ether (1.79 mL) was added dropwise and the mixture was stirred at room temperature for 18 h then heated to 50° C. for 24 h. Additional quantity of chloromethyl methyl ether (1.79 mL) was added and the mixture was stirred for another day at 50° C. and evaporated. The residue was taken up with water and extracted with AcOEt. The extract was dried (MgSO4), filtered and evaporated. The residue was purified by column chromatography (silica gel; eluent: hexane/AcOEt 20:1 to 10:1) to give 1,3-dimethoxy-4-methoxymethoxybenzene (1.18 g).

reactant | K2CO3 | 3.55 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,4-dimethoxyphenol | 3.3 g | COC1=C(C=CC(=C1)OC)O | C8H10O3
reactant | Chloromethyl methyl ether | 1.79 mL | COCCl | C2H5ClO
reactant | chloromethyl methyl ether | 1.79 mL | COCCl | C2H5ClO
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 1,3-dimethoxy-4-methoxymethoxybenzene | 1.18 g | COC1=CC(=C(C=C1)OCOC)OC | C10H14O4
